* Created by KLayout
*** My special header ***

* cell opamp_r2r_MR
* pin INM
* pin INP
* pin OUT
* pin VB
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_MR INM INP OUT VB VDD VSS
* cell instance $1 r0 *1 781,-60.3
X$1 OUT \$18 VDD \$1 \$3 \$2 VSS opamp_r2r_ABAMP_MR
* cell instance $3 r0 *1 646.8,-3.4
X$3 \$17 \$16 \$1 \$12 \$2 \$19 \$18 \$8 VDD \$3 \$11 \$14 \$15 VSS
+ opamp_r2r_cascode
* cell instance $13 r0 *1 -1,0.2
X$13 \$12 \$23 \$20 \$8 \$11 \$19 VB VDD VSS opamp_r2r_CS
* cell instance $34 r0 *1 213.2,134.6
X$34 \$23 \$12 \$15 \$14 INM INP \$17 \$16 VDD \$11 \$20 VSS opamp_r2r_diff_MR
.ENDS opamp_r2r_MR

* cell opamp_r2r_ABAMP_MR
* pin OUT
* pin AB_P
* pin VDD
* pin AB_N
* pin CAP_P
* pin CAP_N
* pin VSS
.SUBCKT opamp_r2r_ABAMP_MR OUT AB_P VDD AB_N CAP_P CAP_N VSS
* device instance $1 r180 *1 320.9,34.8 PMOS
XM$1 VDD AB_P OUT VDD PMOS L=4u W=576u AS=895.2p AD=895.2p PS=674.6u PD=674.6u
* device instance $25 r180 *1 278.9,-38.2 NMOS
XM$25 VSS AB_N OUT VSS NMOS L=4u W=288u AS=463.2p AD=463.2p PS=350.6u PD=350.6u
* device instance $37 r270 *1 -14.2,-51.4 F_CSIO
